* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU7048
*CMOS OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU7048 +IN1 -IN1 V+ V- OUT1 +IN2 -IN2 OUT2 
+ +IN3 -IN3 OUT3 +IN4 -IN4 OUT4
X_U1 +IN1 -IN1 V+ V- OUT1 NJU7048_s
X_U2 +IN2 -IN2 V+ V- OUT2 NJU7048_s
X_U3 +IN3 -IN3 V+ V- OUT3 NJU7048_s
X_U4 +IN4 -IN4 V+ V- OUT4 NJU7048_s
.ends NJU7048
*$
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | | output
*                      | | | | |
.subckt NJU7048_s      1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 13 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
ITL0 3 4 {ITL0}
M1 11 2 13 13 PMOS1 
M2 12 NET1 14 14 PMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 21 {RD1}
RD2 12 22 {RD2}
VRD1 21 4 {VRD}
VRD2 22 4 {VRD}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
IDS 3 4 {IDS}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}

.MODEL DMOD1 D(T_MEASURED=25 IS=5.65E-31)
.MODEL DMOD2 D(T_MEASURED=25 IS=8.00E-16)
.MODEL PMOS1 PMOS(LEVEL=1 VTO=-4.89E-01
+ KP=4.01E-05 L={L_VAL} W={W_VAL} TOX=1.30E-08 U0=1.51E+02)
.MODEL PMOS2 PMOS(LEVEL=1 VTO=-4.89E-01
+ KP=4.01E-05 L={L_VAL} W={W_VAL} TOX=1.30E-08 U0=1.51E+02)
*
.PARAM
+ C1=2.02E-12
+ C2=1.058E-11
+ CS=0.00E+00
+ GCM=3.49E-08
+ GA=3.49E-04
+ GB=362.37 
+ GC=181183.1636
+ ITL=1.00E-04
+ RS=2.00E+06
+ RD1=2864.79 
+ RD2=2864.79 
+ RC=5.52E-06
+ RS1=510.18 
+ RS2=510.18 
+ RO1=50
+ RO2=25
+ RP=5.71E+03
+ VD=0.8175
+ VS=0.817513
+ VOS=0.567086E-03
+ ITL0=2.2E-3
+ IDS=-100.0E-6
+ VTL=-8.55E-02
+ VRD=2.50E-01
+ L_VAL=2.00E-06
+ W_VAL=9.00E-05

.ends NJU7048_s
*$
